US04894369
Water (50 ml) was added to a solution of (2α,3α,5α,16β,17β)2,3-epoxy-16-(1-pyrrolidinyl)-androstan-17-ol (85.2 g) in morpholine (500 ml) and the reaction mixture was heated at reflux temperature for 3 d. Evaporation of the reaction mixture gave a crude product, which was crystallised from acetone. Recrystallisation from methanol gave pure (2β,3α,5α,16β,17β)-2(4-morpholinyl)-16-(1-pyrrolidinyl)-androstane-3,17-diol (71.2 g), m.p. 212°-219° C.; [α]D20 =+87.9° (c 1.02 in CHCl3).

reactant | Water | 50 ml | O | H2O
reactant | (2α,3α,5α,16β,17β)2,3-epoxy-16-(1-pyrrolidinyl)-androstan-17-ol | 85.2 g | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)N2CCCC2 | C23H37NO2
solvent | morpholine | 500 ml | N1CCOCC1 | C4H9NO
product | (2β,3α,5α,16β,17β)-2(4-morpholinyl)-16-(1-pyrrolidinyl)-androstane-3,17-diol | 71.2 g | N1(CCOCC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCC1)O | C27H46N2O3
